US06090820
cis-3-Benzyl-7-(2-fluoro-4-nitrophenyl)-3,7-diazabicyclo[3.3.0]octane (9.11 g, 26.71 mmol), THF (100 mL), and methanol (50 mL) are combined with 10% palladium on carbon (6.67 g) and ammonium formate (16.83 g, 266.90 mmol) under nitrogen, heated to reflux for 2.5 hours, cooled to ambient temperature, stirred 15 hours, filtered through celite and concentrated in vacuo to give crude cis-3-(4-amino-2-fluorophenyl]-3,7-diazabicyclo[3.3.0]octane. cis-3-(4-Amino-2-fluorophenyl]-3,7-diazabicyclo[3.3.0]octane, water (100 mL), acetone (100 mL), and potassium carbonate (7.75 g, 56.07 mmol) are combined, cooled to 0° C., and benzyl chloroformate is added slowly. The reaction is warmed to ambient temperature, stirred 15 hours, concentrated in vacuo, and diluted with ethyl acetate. The organic phase is washed with water (2×150 mL) and saline (150 mL), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with hexane/ethyl acetate (80/20). The appropriate fractions are combined (Rf =0.41, TLC, hexane/ethyl acetate, 50/50) and concentrated in vacuo to give the title compound, mp 121-122° C.

reactant | cis-3-Benzyl-7-(2-fluoro-4-nitrophenyl)-3,7-diazabicyclo[3.3.0]octane | 26.71 mmol, 9.11 g | C(C1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C19H20FN3O2
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | ammonium formate | 266.90 mmol, 16.83 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 6.67 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | cis-3-(4-amino-2-fluorophenyl]-3,7-diazabicyclo[3.3.0]octane | NC1=CC(=C(C=C1)N1C[C@@H]2CNC[C@@H]2C1)F | C12H16FN3
